US07846929B2
To as solution of 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-acrylic acid ethyl ester (2 g) in ethyl acetate (100 mL) was added a suspension of Pd/C (200 mg) in ethanol (10 mL). The flask was flushed with nitrogen and then a hydrogen balloon was fitted. The reaction mixture was stirred at room temperature for 16 h. The mixture was then filtered through Celite and the filtrate concentrated to give 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)propionic acid ethyl ester as a yellow solid (1.83 g).

reactant | 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-acrylic acid ethyl ester | 2 g | C(C)OC(C=CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl)=O | C15H16ClN3O3S
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)propionic acid ethyl ester | 1.83 g | C(C)OC(CCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl)=O | C15H18ClN3O3S
